US04404133
H-Ser-Asn-OH prepared in (1) and benzyloxycarbonyl-Gly-Gly-NHNH2 were condensed according to the azide method, and the reaction mixture was extracted with n-butanol to separate benzyloxycarbonyl-Gly-Gly-Ser-Asn-OH as a product. The product was subjected to catalytic hydrogenating decomposition in the presence of 5% palladium on carbon to obtain H-Gly-Gly-Ser-Asn-OH melting at 219° C. with decomposition in a yield of 63%.

reactant | H-Ser-Asn-OH | N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C7H13N3O5
reactant | azide | [N-]=[N+]=[N-]
product | H-Gly-Gly-Ser-Asn-OH | yield of 63% | NCC(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C11H19N5O7
